Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Bisphosphonates / Accupril
 
Attending: ___
 
Chief Complaint:
Shortness of breath
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
___ with hx of hypertension, asthma and untreated sarcoidosis 
(___) presenting with 1wk hx of worsening dyspnea on exertion 
and fever. Last ___, she began having cold symptoms of 
runny nose and cough. She visited urgent care on ___, and 
despite being treated with prednisone and azithromycin for a 
5day course, which ended on ___, her DOE worsened. She also 
endorsed having 3days of fevers from ___ with max 100.5. She 
then presented to ___ ED on ___ for worsening dyspnea.
 
Past Medical History:
SARCOIDOSIS  
ASTHMA
HYPERTENSION  
OSTEOPOROSIS
HYPERTENSION
CARPAL TUNNEL SYNDROME
CHOLELITHIASIS
GERD
MACULAR DEGENERATION  

 
Social History:
___
Family History:
- Mother died of scarlet fever age ___
- Father died at ___ from MI
- Brother has ___ disease
 
Physical Exam:
ADMISSION EXAM:
Vitals:  T 97.7, BP 161/70, HR 72, RR 18, O2 sat 95% RA
General: alert, oriented, dyspenic while speaking.
HEENT: sclera anicteric, MMM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: Atelectasis in bilateral lung bases. Expiratory wheezing. 
No rales, ronchi  
CV: regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
GU: no foley  
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: CNs2-12 intact, motor function grossly normal

==============================================
DISCHARGE EXAM:
Vitals: T 97.6, BP 102/64, HR 80, RR 18, O2 92% RA
General: alert, oriented, dyspenic while speaking.
HEENT: sclera anicteric, MMM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: Crackles in bilateral lung bases. Expiratory wheezing 
diffusely. No rales, ronchi. Peak flow test 160L/min on ___, 
largely unimproved from ___ (125).
CV: regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-distended. LLQ tenderness. bowel sounds 
present, no rebound tenderness or guarding, no organomegaly  
GU: no foley  
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: CNs2-12 intact, motor function grossly normal  
 
Pertinent Results:
ADMISSION LABS
___ 05:55PM BLOOD WBC-9.1 RBC-4.94 Hgb-14.3 Hct-43.4 MCV-88 
MCH-28.9 MCHC-32.9 RDW-13.1 RDWSD-41.8 Plt ___
___ 05:55PM BLOOD Neuts-87.9* Lymphs-7.3* Monos-3.5* 
Eos-0.0* Baso-0.1 Im ___ AbsNeut-7.97* AbsLymp-0.66* 
AbsMono-0.32 AbsEos-0.00* AbsBaso-0.01
___ 05:55PM BLOOD ___ PTT-28.1 ___
___ 05:55PM BLOOD Glucose-139* UreaN-21* Creat-0.8 Na-137 
K-5.2* Cl-97 HCO3-29 AnGap-16
___ 05:55PM BLOOD proBNP-406
___ 05:55PM BLOOD Calcium-9.7 Phos-3.8 Mg-2.2
___ 06:09PM BLOOD Lactate-2.3* K-4.1

=========================================
DISCHARGE LABS
___ 05:49AM BLOOD WBC-15.4* RBC-3.80* Hgb-11.0* Hct-34.1 
MCV-90 MCH-28.9 MCHC-32.3 RDW-13.9 RDWSD-45.1 Plt ___
___ 05:49AM BLOOD Plt ___
___ 05:49AM BLOOD Glucose-83 UreaN-28* Creat-0.8 Na-140 
K-3.8 Cl-98 HCO3-27 AnGap-19
___ 05:49AM BLOOD Calcium-9.1 Phos-4.1 Mg-2.___RIEF SUMMARY STATEMENT:
=============================
Ms. ___ is an ___ with history of hypertension, asthma, 
and untreated sarcoidosis (___) presenting with 1wk hx of 
worsening DOE and fever, in the setting of upper respiratory 
infection-like symptoms, including cough and runny nose. 
CT-Angiogram, Chest x-ray, EKG showed no signs of pulmonary 
embolism, pneumonia, or ischemic changes respectively. She was 
treated with prednisone 60mg PO, ipratroprium and albuterol 
nebulizers, home advair, and guaifenesin with improvement in her 
clinical symptoms. However, her peak flow measurement did not 
improve significantly from 160L/min. At time of discharge, she 
was satting well on room air at rest and with ambulation. 

SUMMARY OF ACTIVE ISSUES:
=============================
On arrival to the ED, patient was afebrile, not tachycardic, 
with tachypnea (RR 24). His physical exam was notable for 
bilateral wheezing and dyspnea while speaking, and did not have 
any signs of volume overload. CT-A chest showed no evidence of 
pulmonary embolism, although it did confirm the calcified hilar 
lymphadenopathy and calcified granulomas, likely related to her 
known history of sarcoidosis. Chest x-ray showed hyperinflation 
without acute cardiopulmonary processes. Flu swab was negative. 
Troponin was negative. Labs were significant for normal CBC's 
and BNP 406. 

On admission, she was initially treated with prednisone 60mg, 
duonebs, albuterol neb, home advair, and incentive spirometry. 
She did not require any supplemental oxygen. Her peak flow 
measurement was 125L/min, which is significantly low. Despite 
continued treatment, both her peak flow measurement and clinical 
symptoms did not significantly improve. A repeat chest x-ray on 
___ revealed no changes from the one obtained in the ED. 
Pulmonology was consulted on ___, who agreed with our treatment 
plan, and endorsed that she most likely had a post-viral 
reactive airways syndrome on the background of underlying 
obstructive pulmonary disease that would take couple weeks to 
resolve fully. Antibiotics was not recommended in the setting of 
being afebrile and chest x-ray showing no focal consolidations. 
She was also given a pulmonary toilet and flutter valve. On the 
day of discharge, she endorsed not being dyspneic with 
activities, although peak flow measurement was 160L/min.

On ___ ___, she also endorsed left lower quadrant pain. She 
denied fever, rebound tenderness or guarding. This was 
determined to be most likely a muscle strain from coughing and 
voluntarily walking long distances on the hospital floor. She 
was treated with Tylenol PRN and lidocaine patch PRN to good 
effect.

Throuhgout her admission, her Hgb, which was 14.3 on admission, 
steadily decreased to (___) 11.0 on discharge. She did not have 
any symptoms or signs of bleeding, so no treatment was given. 

Of note, the patient admits an unwitnessed episode of controlled 
fall without headstrike in the bathroom on ___. As per the 
patient, while she was rising from the toilet, she fell forward 
onto her elbows without headstrike. She denied lightheadedness, 
dizziness, chest pain, or dyspnea. Following this episode, she 
did not have any other incidents of falls.

TRANSITIONAL ISSUES:
=============================
# DYSPNEA: Thought to be ___ URI with asthma exacerbation. 
Please check peak flow as outpatient, and consider outpatient 
PFTs
# NEW MEDICATION: Prednisone Taper. Prednisone 40mg ___, 
30mg ___, 20mg ___, 10mg ___, 5mg ___, 
No more prednisone starting ___.
# NEW MEDICATIONS: Albuterol inhaler as needed, guaifenesin as 
needed, Tylenol as needed
# PULM FOLLOW UP: Patient needs outpatient Pulm follow up, which 
has been scheduled
# ANEMIA: Hgb 14.3 on admission, 11.0 on discharge. No s/s 
bleeding, but please check outpatient CBC. Will defer further 
eval to PCP. 

CODE STATUS: Full confirmed
Contact: ___ ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID 
2. Aspirin 81 mg PO DAILY 
3. amLODIPine 5 mg PO DAILY 
4. Hydrochlorothiazide 25 mg PO DAILY 
5. Losartan Potassium 100 mg PO DAILY 
6. Sertraline 100 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H:PRN 
2.  Albuterol Inhaler ___ PUFF IH Q4H:PRN dyspnea 
3.  GuaiFENesin ___ mL PO Q6H Cough with sputum 
4.  PredniSONE 40 mg PO DAILY Duration: 3 Doses (___)
5.  PredniSONE 30 mg PO DAILY Duration: 3 Doses (___)
6.  PredniSONE 20 mg PO DAILY Duration: 3 Doses (___)
7.  PredniSONE 10 mg PO DAILY Duration: 3 Doses (___)
8.  PredniSONE 5 mg PO DAILY Duration: 3 Doses (___)
9.  amLODIPine 5 mg PO DAILY  
10.  Aspirin 81 mg PO DAILY  
11.  Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID  
12.  Hydrochlorothiazide 25 mg PO DAILY  
13.  Losartan Potassium 100 mg PO DAILY  
14.  Sertraline 100 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
- Asthma exacerbation

SECONDARY DIAGNOSIS:
- SARCOIDOSIS
- HTN
- Abdominal pain, likely secondary to muscle strain
- Anemia 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent, however becomes short 
of breath with mild activity.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted for shortness of breath with activity. 
Considering your recent cough and runny nose before your 
admission, you most likely had a viral infection that acutely 
worsened your underlying asthma. A CT-scan of your chest showed 
no blood clots in your lungs. Your chest x-ray showed no signs 
of pneumonia. Your EKG showed no signs of heart attack.

You were treated with steroids, inhalers, nebulizers, and 
inspiratory spirometry. You became less wheezy and felt less 
short of breath with activity. However your peak flow 
measurement still shows that you have difficulty exhaling, 
indicating that you may have an obstructive lung disease as 
well. Your underlying sarcoidosis may also be contributing to 
your difficulty breathing. The lung doctors here ___ your 
PCP, ___, who is aware of your situation.

PREDNISONE TAPER:
- On ___, take 4 Prednisone pills daily
- On ___, take 3 prednisone pills daily
- On ___, take 2 prednisone pills daily
- On ___, take 1 prednisone pill daily
- On ___, take half of a prednisone pill daily
- STOP Prednisone on ___

On ___, you had new abdominal pain in the left lower belly. This 
is most likely due to muscle strain in the setting of coughing 
and pushing yourself to walk long distances within the hospital. 
You agreed that the pain improved with the Tylenol and lidocaine 
patch.

Please continue your home advair and prescribed medications as 
instructed.

We wish you all the best in the future.
- Your ___ Medicine team
 
Followup Instructions:
___